.subckt OAI21_1X A1 A2 B YB VDD VSS VNW VPW
MP1 VDD A1 w1  VNW p m=1 L=180n W=1800n
MP2 w1  A2 YB  VNW p m=1 L=180n W=1800n
MP3 VDD B  YB  VNW p m=1 L=180n W=1800n
MN1 w2  B  YB  VPW n m=1 L=180n W=1200n
MN2 w2  A1 VSS VPW n m=1 L=180n W=1200n
MN3 w2  A2 VSS VPW n m=1 L=180n W=1200n
.ends
